US04044151
N-[4-(1-Hydroxy-2-isopropylaminoethyl)phenyl]-N'-(4-tolyl)-sulfamide para-Toluenesulfonate
Procedure 8 is also applicable to the preparation of N,N-dimethyl-N'-[4-(1-hydroxy-2-aminopropyl)phenyl]sulfamide, and N,N-dimethyl-N'-[4-(1-hydroxy-2-aminobutyl)phenyl]sulfamide respectively from N-[4-(α-aminopropionyl)phenyl]-N',N'-dimethylsulfamide, and N-[4-(α-aminobutyryl)phenyl]-N',N'-dimethylsulfamide. Similarly, N-[4-(1-hydroxy-2-isopropylaminoethyl)phenyl]-N'-phenylsulfamide may be prepared from N-[4-(N-benzyl-N-isopropylglycyl)phenyl]-N'-phenylsulfamide.

reactant | N,N-dimethyl-N'-[4-(1-hydroxy-2-aminopropyl)phenyl]sulfamide | CN(S(=O)(=O)NC1=CC=C(C=C1)C(C(C)N)O)C | C11H19N3O3S
reactant | N,N-dimethyl-N'-[4-(1-hydroxy-2-aminobutyl)phenyl]sulfamide | CN(S(=O)(=O)NC1=CC=C(C=C1)C(C(CC)N)O)C | C12H21N3O3S
reactant | N-[4-(α-aminopropionyl)phenyl]-N',N'-dimethylsulfamide | NC(C(=O)C1=CC=C(C=C1)NS(=O)(=O)N(C)C)C | C11H17N3O3S
reactant | N-[4-(α-aminobutyryl)phenyl]-N',N'-dimethylsulfamide | NC(C(=O)C1=CC=C(C=C1)NS(=O)(=O)N(C)C)CC | C12H19N3O3S
reactant | N-[4-(1-hydroxy-2-isopropylaminoethyl)phenyl]-N'-phenylsulfamide | OC(CNC(C)C)C1=CC=C(C=C1)NS(=O)(=O)NC1=CC=CC=C1 | C17H23N3O3S
reactant | N-[4-(N-benzyl-N-isopropylglycyl)phenyl]-N'-phenylsulfamide | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C=C1)NS(=O)(=O)NC1=CC=CC=C1)C(C)C | C24H27N3O3S
product | N-[4-(1-Hydroxy-2-isopropylaminoethyl)phenyl]-N'-(4-tolyl)-sulfamide para-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.OC(CNC(C)C)C1=CC=C(C=C1)NS(=O)(=O)NC1=CC=C(C=C1)C | InChI=1S/C18H25N3O3S.C7H8O3S/c1-13(2)19-12-18(22)15-6-10-17(11-7-15)21-25(23,24)20-16-8-4-14(3)5-9-16;1-6-2-4-7(5-3-6)11(8,9)10/h4-11,13,18-22H,12H2,1-3H3;2-5H,1H3,(H,8,9,10)
